US07678795B2
6,6-Dimethyl-3-(2-trifluoromethoxy-phenyl)-6,7-dihydro-5H-cyclopenta[c]pyridazine
light yellow oil. MS (ESI): 309.0 (MH+). Prepared from 4,4-dimethyl-cyclopentane-1,2-dione, [2-Oxo-2-(2-trifluoromethoxy-phenyl)-ethyl]-phosphonic acid dimethyl ester, hydrazine monohydrate.

reactant | 4,4-dimethyl-cyclopentane-1,2-dione | CC1(CC(C(C1)=O)=O)C | C7H10O2
reactant | [2-Oxo-2-(2-trifluoromethoxy-phenyl)-ethyl]-phosphonic acid dimethyl ester | COP(OC)(=O)CC(C1=C(C=CC=C1)OC(F)(F)F)=O | C11H12F3O5P
reactant | hydrazine monohydrate | O.NN
product | 6,6-Dimethyl-3-(2-trifluoromethoxy-phenyl)-6,7-dihydro-5H-cyclopenta[c]pyridazine | CC1(CC2=C(N=NC(=C2)C2=C(C=CC=C2)OC(F)(F)F)C1)C | C16H15F3N2O
